US05334598
Step A: Preparation of 3-[4-(1-carbomethoxy-1-(3,4-methylenedioxy-phenyl)-methoxy)-3,5-dipropylphenyl]methyl-3H-imidazo[4,5-c]pyridine
Cesium carbonate (156 mg, 0.48 mmol) was added to imidazo[4,5-c]pyridine (28.6 mg, 0.24 mmol) in DMF (3 mL) at room temperature under nitrogen. After stirring for 15 min, a solution of 4-(1-carbomethoxy-1-(3,4-methylenedioxyphenyl)-methoxy)-3,5-dipropylbenzyl bromide (121 mg, 0.26 mmol) in DMF (3 mL) was added and the mixture stirred at 50° C. for 18 h. The mixture was poured onto ice/water and extracted with ethyl acetate (3×30 mL). The combined organic phase was washed with water, brine, dried (magnesium sulfate) and the solvent removed in vacuo. The crude material was purified by flash column chromatography (0 to 5% methanol/methylene chloride) to afford the less polar isomer of the titled compound (19 mg).

reactant | Cesium carbonate | 0.48 mmol, 156 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | imidazo[4,5-c]pyridine | 0.24 mmol, 28.6 mg | N1C=NC=2C=NC=CC21 | C6H5N3
reactant | 4-(1-carbomethoxy-1-(3,4-methylenedioxyphenyl)-methoxy)-3,5-dipropylbenzyl bromide | 0.26 mmol, 121 mg | C(=O)(OC)C(OC1=C(C=C(CBr)C=C1CCC)CCC)C1=CC2=C(C=C1)OCO2 | C23H27BrO5
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 3-[4-(1-carbomethoxy-1-(3,4-methylenedioxy-phenyl)-methoxy)-3,5-dipropylphenyl]methyl-3H-imidazo[4,5-c]pyridine | 19 mg | C(=O)(OC)C(OC1=C(C=C(C=C1CCC)CN1C=NC2=C1C=NC=C2)CCC)C2=CC1=C(C=C2)OCO1 | C29H31N3O5
